US04599344
3-[2-(4-Chlorophenyl)ethylidene]-1-[3-((1,1-dimethylethoxy)carbonyl)-2-hydroxypropyl]-1-azoniabicyclo[2.2.2]octane chloride
Partially dissolve 3-[2-(4-chlorophenyl)ethylidene]-quinuclidine hydrochloride (0.12 g, 0.5 mmole) in 5 ml of anhydrous methanol and stir under nitrogen atmosphere. Add t-butyl 3,4-epoxybutyrate (0.16 g, 1.0 mmole) and stir at room temperature for three days. Remove methanol in vacuo and purify the residue by preparative thin-layer chromatography on silica gel (acetonitrile: NH4OH, 90:10) to provide the title compound.

reactant | 3-[2-(4-chlorophenyl)ethylidene]-quinuclidine hydrochloride | 0.5 mmole, 0.12 g | Cl.ClC1=CC=C(C=C1)CC=C1CN2CCC1CC2
reactant | t-butyl 3,4-epoxybutyrate | 1.0 mmole, 0.16 g | O1C(CC(=O)OC(C)(C)C)C1 | C8H14O3
solvent | methanol | 5 ml | CO | CH4O
product | 3-[2-(4-Chlorophenyl)ethylidene]-1-[3-((1,1-dimethylethoxy)carbonyl)-2-hydroxypropyl]-1-azoniabicyclo[2.2.2]octane chloride | [Cl-].ClC1=CC=C(C=C1)CC=C1C[N+]2(CCC1CC2)CC(CC(=O)OC(C)(C)C)O | InChI=1S/C23H33ClNO3.ClH/c1-23(2,3)28-22(27)14-21(26)16-25-12-10-18(11-13-25)19(15-25)7-4-17-5-8-20(24)9-6-17;/h5-9,18,21,26H,4,10-16H2,1-3H3;1H/q+1;/p-1
